US04374137
2'-(2-Aminoethyl)spiro[benzofuran-2(3H),4'(2'H)-isoquinoline] dihydrochloride
To a stirred suspension of lithium aluminum hydride (5.3 g) in dry tetrahydrofuran (100 ml) at 0°, is added a solution of 2'-cyanomethylspiro[benzofuran-2(3H),4'(2'H)-isoquinoline] (9.5 g) in dry tetrahydrofuran (50 ml). The mixture is heated to reflux for three hours. The mixture is cooled with an ice-bath, diluted with dry ether (300 ml) and saturated ammonium chloride solution (60 ml) is added in small portions over a period of one hour. The organic layer is collected, washed with water (2x) and dried over anhydrous magnesium sulfate. After filtering, the solvents are evaporated to an oil (7.3 g). The oil (3.7 g) is dissolved in ether and converted to dihydrochloride salt. The material is recrystallized twice from methanol/acetone/ether to yield product (3.0 g, 67.5%) as a solid, mp 158° (dec).

reactant | lithium aluminum hydride | 5.3 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 2'-cyanomethylspiro[benzofuran-2(3H),4'(2'H)-isoquinoline] | 9.5 g | C(#N)CN1CC2=CC=CC=C2C2(C1)OC1=C(C2)C=CC=C1 | C18H16N2O
reactant | ammonium chloride | 60 ml | [Cl-].[NH4+]
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | ether | 300 ml | CCOCC | C4H10O
product | 2'-(2-Aminoethyl)spiro[benzofuran-2(3H),4'(2'H)-isoquinoline] dihydrochloride | 3.0 g, 67.5% | Cl.Cl.NCCN1CC2=CC=CC=C2C2(C1)OC1=C(C2)C=CC=C1 | InChI=1S/C18H20N2O.2ClH/c19-9-10-20-12-15-6-1-3-7-16(15)18(13-20)11-14-5-2-4-8-17(14)21-18;;/h1-8H,9-13,19H2;2*1H
